US06136810
Diphosphorus pentasulfide (3.00 g, 13.5 mmol) was added to a solution of 2.00 g (6.69 mmol) of 4-(3-chlorophenyl)-1-ethyl-7-methylpyrido[2,3-d]pyrimidine in 100 ml of 1,2-dichloroethane, followed by heating under reflux for 6 hours. The reaction solution was cooled to room temperature, mixed with saturated sodium bicarbonate and extracted with chloroform. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-chloroform) and further recrystallized from ethyl acetate-diisopropyl ether to give 1.14 g of 4-(3-chlorophenyl)-1-ethyl-7-methylpyrido[2,3-d]pyrimidin-2(1H)-thione. The yield was 54%.

reactant | Diphosphorus pentasulfide | 13.5 mmol, 3.00 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 4-(3-chlorophenyl)-1-ethyl-7-methylpyrido[2,3-d]pyrimidine | 6.69 mmol, 2.00 g | ClC=1C=C(C=CC1)C=1C2=C(N(CN1)CC)N=C(C=C2)C | C16H16ClN3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 4-(3-chlorophenyl)-1-ethyl-7-methylpyrido[2,3-d]pyrimidin-2(1H)-thione | 1.14 g, yield was 54% | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=S)CC)N=C(C=C2)C | C16H14ClN3S
